US06939997B2
The invention therefore consists in a process for preparing 3(4),8(9)dihydroxymethyltricyclo[5.2.1.02,6]decane by hydroformylating dicyclopentadiene with subsequent hydrogenation. The process comprises reacting dicyclopentadiene, in a first hydroformylation stage in a heterogeneous reaction system using an aqueous solution of transition metal compounds, containing water-soluble organic phosphorus (III) compounds in complex-bound form, of group VIII of the Periodic Table of the Elements at temperatures of from 70 to 150° C. and pressures of from 0.5 to 10 MPa, with synthesis gas to give 8(9)-formyltricyclo[5.2.1.026]dec-3-ene, then separating the organic phase from the aqueous phase and subsequently converting the thus obtained 8(9)formyltricyclo[5.2.1.02,6]dec-3-ene, in a second hydroformylation stage in homogeneous organic phase in the presence of transition metal compounds of group VIII of the Periodic Table of the Elements at temperatures of from 70 to 140° C. and pressures of from 5 to 35 MPa by reacting with synthesis gas, to 3(4),8(9)-bisformyltricyclo[5.2.1.02,6]decane and subsequently hydrogenating the thus obtained 3(4),8(9)-bisformyltricyclo[5.2.1.02,6]decane to give 3(4),8(9)-dihydroxymethyltricyclo[5.2.1.02,6]decane.

reactant | dicyclopentadiene | C1C=CC2C1C3CC2C=C3 | C10H12
solvent | water | O | H2O
product | dec-3-ene | CCC=CCCCCCC | C10H20
